US07737166B2
tert-Butyl [1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)azetidin-3-yl]carbamate (I-194)
Diisopropylethylamine (787 μl, 4.63 mmol) and tert-butyl azetidin-3-ylcarbamate hydrochloride (483 mg, 2.31 mmol) were added to a dichloromethane (20 ml) solution of 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (553 mg, 1.93 mmol), followed by stirring at room temperature for 30 minutes. With cooling with ice, aqueous 10% citric acid solution (10 ml) was added to the reaction liquid, followed by extraction with chloroform (50 ml), then the organic layer was washed with saturated brine (50 ml). After drying over anhydrous sodium sulfate and concentration under reduced pressure, the resulting residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=2:1) to obtain the entitled compound (815 mg, 100%) as a colorless oily substance.

reactant | Diisopropylethylamine | 4.63 mmol, 787 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl azetidin-3-ylcarbamate hydrochloride | 2.31 mmol, 483 mg | Cl.N1CC(C1)NC(OC(C)(C)C)=O
reactant | 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 1.93 mmol, 553 mg | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | citric acid | 10 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | tert-Butyl [1-(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)azetidin-3-yl]carbamate | 815 mg, 100% | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CC(C2)NC(OC(C)(C)C)=O)F)C2=CC=CC=C2)C | C23H23FN4O3
